US07196080B2
To an NMP (7.5 ml) solution of 1.51 g of 2,5-dichloropyrazine were added 2.00 g of 1-(t-butoxycarbonyl)piperazine and 2.00 g of potassium carbonate, followed by 1 hour of stirring under heating at 100° C. The mixture was cooled to room temperature, and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and brine and then dried over anhydrous magnesium sulfate, and thereafter, the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain 2.73 g of 2-chloro-5-(4-t-butoxycarbonylpiperazin-1-yl)pyrazine. Using this compound, 2-chloro-5-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyrazine was obtained in a similar manner to Example 14 as colorless crystals.

reactant | NMP | 7.5 ml | CN1CCCC1=O | C5H9NO
reactant | 2,5-dichloropyrazine | 1.51 g | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | 1-(t-butoxycarbonyl)piperazine | 2.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 2.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-chloro-5-(4-t-butoxycarbonylpiperazin-1-yl)pyrazine | 2.73 g | ClC1=NC=C(N=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19ClN4O2
